US07893056B2
2-(3-Bromo-2-oxopropyl)-1H-isoindole-1,3(2H)-dione
Commercially available phthalimidoacetone (2.0 g, 9.8522 mmol), under a nitrogen atmosphere, was taken up in diethylene glycol (13 mL) and cooled to 0° C. in an ice bath. Bromine (0.51 mL, 9.9242 mmol) was added dropwise. The reaction was shielded from light, allowed to reach ambient temperature, and stirred overnight. LCMS: (M+H)+=282.0.

reactant | phthalimidoacetone | 9.8522 mmol, 2.0 g | C1(C=2C(C(N1CC(C)=O)=O)=CC=CC2)=O | C11H9NO3
reactant | Bromine | 9.9242 mmol, 0.51 mL | BrBr | Br2
solvent | diethylene glycol | 13 mL | C(COCCO)O | C4H10O3
product | 2-(3-Bromo-2-oxopropyl)-1H-isoindole-1,3(2H)-dione | BrCC(CN1C(C2=CC=CC=C2C1=O)=O)=O | C11H8BrNO3
